US05310743
(2R*,4S*)-2-Benzyl-1-(3-bromobenzoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
141 mg (0.70 mmol) of m-bromobenzoic acid are reacted in analogy to Example 2a first with 2 ml (27 mmol) of thionyl chloride and subsequently with 200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine and 118 μl (0.842 mmol) of triethylamine to give the title compound (271 mg, 95%). TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.71, FD-MS: M+ =609, 611.

reactant | m-bromobenzoic acid | 0.70 mmol, 141 mg | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | thionyl chloride | 27 mmol, 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | triethylamine | 0.842 mmol, 118 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-(3-bromobenzoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 271 mg, 95% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(C1=CC(=CC=C1)Br)=O | C31H27BrF3N3O2
